US07449467B2
(1S,3R)-3-Ethyl-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride
tert-Butyl [(1S,3R)-3-ethyl-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate (0.39 g, 0.83 mmol) was dissolved in a 4 M solution of hydrogen chloride in 1,4-dioxane (3.1 mL) and the solution was stirred at room temperature overnight. The reaction solution was evaporated to give the desird product as a yellow powder (0.36 g, 96%).

reactant | tert-Butyl [(1S,3R)-3-ethyl-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 0.83 mmol, 0.39 g | C(C)[C@@]1(C[C@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C23H33F3N4O3
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 3.1 mL | O1CCOCC1 | C4H8O2
product | (1S,3R)-3-Ethyl-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride | 0.36 g, 96% | Cl.Cl.C(C)[C@@]1(C[C@H](CC1)N)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | InChI=1S/C18H25F3N4O.2ClH/c1-2-17(5-3-14(22)12-17)16(26)25-9-7-24(8-10-25)15-11-13(4-6-23-15)18(19,20)21;;/h4,6,11,14H,2-3,5,7-10,12,22H2,1H3;2*1H/t14-,17+;;/m0../s1
